US08802679B2
(2E)-3-[6-(4-{5-[3-({[N-(tert-Butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]acrylic acid (147 mg) was dissolved in dioxane (3 ml), and CHCl3 (1 ml) and 4 M hydrogen chloride/dioxane (1 ml) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain (2E)-3-(6-{-4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}-5-methylpyridin-3-yl)acrylic acid dihydrochloride (130 mg).

reactant | (2E)-3-[6-(4-{5-[3-({[N-(tert-Butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]acrylic acid | 147 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)/C=C/C(=O)O)C | C32H39N7O5
reactant | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride dioxane | 4 M, 1 ml | Cl.O1CCOCC1
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | (2E)-3-(6-{-4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}-5-methylpyridin-3-yl)acrylic acid dihydrochloride | 130 mg | Cl.Cl.NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)/C=C/C(=O)O)C | InChI=1S/C27H31N7O3.2ClH/c1-19-12-20(6-7-25(36)37)15-29-26(19)33-8-10-34(11-9-33)27-30-16-23(17-31-27)22-5-3-4-21(13-22)18-32(2)24(35)14-28;;/h3-7,12-13,15-17H,8-11,14,18,28H2,1-2H3,(H,36,37);2*1H/b7-6+;;
